US07557238B2
tert-Butyl 6-cyano-5-(tert-butyldiphenylsilyloxy)-3-oxohexanoate
A solution of n-butyl lithium in hexane (14.4 ml, 0.21 mol) was added to a chilled solution (−5 to −10° C.) of diisopropylamlie (23.2 g, 0.23 mol) in THF (100 ml) and the resulting mixture was stirred at −5 to −10° C. for 30 minutes. After chilling the reaction to about −45° C., tert-butyl acetate (26 g, 0.21 mol) was added and the resulting reaction mixture was stirred at −20-30° C. for 1 hour. A solution of ethyl 4-cyano-3-(tert-butyldiphenylsilyloxy)-butanoate (20 g, 0.050 mol) in THF (20 ml) was added to the reaction mixture at about −75° C. and further stirred −70-−75° C. for 2 hours. Methanol (15 ml) was added to the reaction mixture followed by water (200 ml) and layers were separated. The organic layer was preserved. The aqueous layer was extracted with ethyl acetate (2×200 ml) and combined with the organic layer. The combined organic layer was evaporated to give the title compound.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.21 mol, 14.4 ml | CCCCCC | C6H14
reactant | tert-butyl acetate | 0.21 mol, 26 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | ethyl 4-cyano-3-(tert-butyldiphenylsilyloxy)-butanoate | 0.050 mol, 20 g | C(#N)CC(CC(=O)OCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H29NO3Si
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | Methanol | 15 ml | CO | CH4O
product | tert-Butyl 6-cyano-5-(tert-butyldiphenylsilyloxy)-3-oxohexanoate | C(#N)CC(CC(CC(=O)OC(C)(C)C)=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H35NO4Si
